US07939526B2
A mixture of 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclobutanol (6.32 g, 23.1 mmol) and 20% palladium hydroxide on carbon (0.60 g) in ethanol (100 mL) was hydrogenated overnight on a Parr apparatus at 40 psi (2.8×105 Pa). The mixture was filtered through CELITE filter agent, which was rinsed several times with ethanol, and the filtrate was concentrated to provide 5.66 g of 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclobutanol as a pale yellow solid. The solid was concentrated from toluene and chloroform to remove ethanol before using directly in the next reaction.

reactant | 1-{[(3-nitroquinolin-4-yl)amino]methyl}cyclobutanol | 23.1 mmol, 6.32 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCC1)O | C14H15N3O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.60 g | [OH-].[OH-].[Pd+2]
product | 1-{[(3-aminoquinolin-4-yl)amino]methyl}cyclobutanol | 5.66 g | NC=1C=NC2=CC=CC=C2C1NCC1(CCC1)O | C14H17N3O
